Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
nifedipine
 
Attending: ___.
 
Chief Complaint:
Hypertension
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with history of HTN, DM2 and recent right MCA and left 
pontine strokes presents from nursing home after a systolic 
blood pressure reading of 220.  
The patient was recently discharged from the medicine service on 
___ at ___ after management of failure to thrive in the 
setting of her recent strokes. During that hospitalization her 
clonidine was decreased from 0.2mg TID to 0.1mg TID for concern 
of clonidine induced lethargy. That hospitalization was also 
complicated by an E. Coli UTI for which she completed treatment 
on ___ (first with CTX, then cefpodoxime).
Of note, the patient's blood pressure was difficult to control 
during her hospitalization during ___ for her left pontine 
stroke. She was noted to have pressures routinely >200mmHg while 
on her home regimen.  
In the ED, initial vitals were: T 97.3 HR 73 BP 208/92 R 16 SpO2 
99% RA  
 - Exam notable for: Left upper and lower extremity weakness  
 - Labs notable for:  Hgb 9.3 (baseline ~8)  
 - Imaging was notable for: None obtained  
 - Patient was given:  
 ___ 01:09 PO/NG HydrALAZINE 50 mg  
 ___ 01:09 PO/NG Labetalol 300 mg  
 ___ 01:09 PO CloNIDine .2 mg  

Upon arrival to the floor, patient reports feeling fine, without 
headache, vision changes, chest pain or dyspnea.  
REVIEW OF SYSTEMS: No fevers/chills. No chest pain, headaches or 
vision changes. No dyspnea. No abdominal pain. No 
nausea/vomiting/diarrhea. +dysuria. 
 
Past Medical History:
L Pontine stroke ___ 
R MCA stroke ___ with left hemiplegia
Hypertension
Hyperlipidemia
CKD
Depression
 
Social History:
___
Family History:
Father died of MI at age ___, had hypertension.  Mother had HTN, 
unknown cause of death. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=======================
VS: T 98.5 BP ___ HR ___ R 18 SpO2 98 RA  
GEN: NAD, resting supine with eyes closed, needs strong verbal 
stimuli to maintain attention and converse, but alert and 
oriented x3  
HEENT: sclerae anicteric, EOMI, DMM   
___: II/VI RUSB radiating to carotids, RRR, no gallops
RESP: No increased WOB, clear anteriorly/laterally without 
wheezing, rhonchi or crackles  
ABD: NTND +BS no suprapubic tenderness 
EXT: warm without edema  
NEURO: R facial droop, ___ strength LUE and LLE.  Cannot lift 
leg or arm off bed. Sensation intact. ___ RUE and RLL ___. No 
shoulder shrug L shoulder.  CN otherwise intact. 

DISCHARGE PHYSICAL EXAM:
=======================
VS: 97.___/99.1 ___ 63-70 16 99%RA
GEN: NAD, resting supine with eyes open, alert and oriented x3
HEENT: sclerae anicteric, EOMI, MMM   
___: II/VI RUSB radiating to carotids, RRR no gallops 
RESP: No increased WOB, clear anteriorly/laterally without 
wheezing, rhonchi or crackles  
ABD: NTND +BS no suprapubic tenderness 
EXT: warm without edema  
NEURO: R facial droop, ___ strength LUE and LLE.  Cannot lift 
leg or arm off bed. Sensation intact. ___ RUE and RLL ___. No 
shoulder shrug L shoulder.  CN otherwise intact. No nystagmus.
 
Pertinent Results:
ADMISSION LABS:
==============
___ 11:14PM BLOOD WBC-4.3 RBC-3.01* Hgb-9.3* Hct-29.4* 
MCV-98 MCH-30.9 MCHC-31.6* RDW-13.1 RDWSD-46.6* Plt ___
___ 11:14PM BLOOD Neuts-47.8 ___ Monos-9.8 Eos-1.9 
Baso-0.5 Im ___ AbsNeut-2.04# AbsLymp-1.70 AbsMono-0.42 
AbsEos-0.08 AbsBaso-0.02
___ 11:14PM BLOOD CK-MB-1 cTropnT-0.01
___ 11:14PM BLOOD Calcium-9.9 Phos-3.2 Mg-1.8
___ 06:00AM URINE Color-Yellow Appear-Hazy Sp ___
___ 06:00AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-SM 
___ 06:00AM URINE RBC-<1 WBC-22* Bacteri-FEW Yeast-NONE 
Epi-0
___ 06:00AM URINE CastHy-1*

INTERVAL LABS:
=============
___ 06:03AM BLOOD RENIN - FROZEN-PND
___ 06:03AM URINE NORMETANEPHRINE 0.23 nmol/L (reference 
value <0.90) METANEPHRINE 0.20 nmol/L (reference value <0.50)
___ 12:47PM BLOOD ALDOSTERONE-3
___ 01:13PM URINE Color-Straw Appear-Hazy Sp ___
___ 01:13PM URINE Blood-NEG Nitrite-POS Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-MOD
___ 02:36PM URINE Hours-RANDOM UreaN-353 Creat-56 Na-150 
K-40 Cl-143 TotProt-24 Prot/Cr-0.4*
___:36PM URINE Osmolal-498

DISCHARGE LABS:
==============
___ 06:05AM BLOOD Glucose-105* UreaN-28* Creat-1.0 Na-144 
K-4.0 Cl-106 HCO3-25 AnGap-17
___ 06:05AM BLOOD Calcium-10.2 Phos-3.4 Mg-2.1

MICROBIOLOGY:
=============
___ BLOOD CULTURE - NO GROWTH FINAL
___ 1:13 pm URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         Piperacillin/tazobactam sensitivity testing available 
on request. 
         Fosfomycin AND Ertapenem Sensitivity testing per ___ 
(___)
         ___.  SENSITIVE TO Fosfomycin.  SENSITIVE TO 
Ertapenem. 
         Fosfomycin AND Ertapenem sensitivity testing performed 
by ___
         ___. 
      ESCHERICHIA COLI.    10,000-100,000 CFU/mL. 
         NO FURTHER WORK UP. SEE ORGANISM #1 FOR SENSITIVITIES.. 


                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------  =>64 R
CEFTAZIDIME-----------    16 R
CEFTRIAXONE-----------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
TOBRAMYCIN------------  =>16 R
TRIMETHOPRIM/SULFA----  =>16 R

STUDIES/REPORTS:
___ ECG
Sinus 71 NA NI q waves III, aVF, poor R wave progression 
 
___ CT HEAD W/O CONTRAST  
IMPRESSION:  
1. No evidence of hemorrhage.  
2. Evolution of the previously visualized left pontine infarct. 
Large chronic right middle cerebral artery territory infarct  

___ RENAL ULTRASOUND
FINDINGS:  
The right kidney measures 9.6 cm. The left kidney measures 9.4 
cm. There is no hydronephrosis, stones, or masses bilaterally.  
Normal cortical echogenicity and corticomedullary 
differentiation are seen bilaterally. There is limited 
evaluation of the renal arteries bilaterally due to patient 
motion however, there is delayed upstroke and spectral 
broadening in the main renal artery and intrarenal arteries of 
the left kidney.  There is also mildly delayed upstroke in the 
intrarenal arteries of the right kidney. 
The bladder is moderately well distended and normal in 
appearance. 
IMPRESSION:  
Limited evaluation due to patient motion.  Within these 
limitations, there is delayed upstroke of the main and 
intrarenal arteries of the left kidney and mild delayed upstroke 
of the intrarenal arteries of the right kidneys.  These findings 
may reflect upstream stenosis.
 
Brief Hospital Course:
Ms. ___ is a ___ with PMHx HTN, history of a right MCA stroke 
___ with left hemiplegia and left pontine stroke ___ who 
presents with resistant HTN, also found to have ESBL E. Coli 
UTI: 
 
ACTIVE ISSUES: 
# Resistant HTN: 
Ms. ___ presented with severe blood pressure elevations with 
no acute signs of end organ damage. A few days prior to this 
hospitalization, blood pressures at her nursing home were 
reported to sustain consistently in the 190s-210s/100s. 
Nephrology was consulted to assist with optimization of her 
blood pressure regimen. A secondary HTN work up was performed 
given a diagnosis of hypertension in her early ___. A renal 
ultrasound was obtained, although limited, but was suggestive of 
bilateral upstream renal artery stenosis which was though to 
reflect atherosclerosis. Ms. ___ was discharged on the 
following regimen: Lasix 40mg QD, lisinopril 20mg BID, 
amlodipine 10mg QHS, clonidine 0.1mg QAM, 0.1mg QPM, and 0.2mg 
QHS, and labetalol 800mg Q8H with BPs ranging between SBPs 
130s-160s on discharge. Primary aldosteronism work up was 
negative as well as urine metanephrines negative. 

# Uncomplicated ESBL E. Coli Cystitis: 
Patient reported dysuria on admission.  Of note, during her last 
admission, she was treated for pansensitive E. Coli UCx with 
Cephalexin x10 days (last day ___. UCx this admission grew 
ESBL E. Coli. Ms. ___ was treated for 7 days with 
nitrofurantoin ___ last full day ___.

# History of Multiple Strokes: 
Ms. ___ neurologic exam is notable for right facial droop, 
___ strength LUE and LLE, ___nd RLL. Sensation 
bilaterally grossly intact. No shoulder shrug left shoulder, 
cranial nerves otherwise intact. Given pureed diet with thin 
liquids per last nutrition note given dysphagia. Continued 
Plavix and statin and her hypertension regimen was optimized as 
above.

# Poor PO Intake: Patient has limited use of left side of body 
secondary to stroke and needs assistance with PO intake. Given 
meals with 1:1 assist inpatient. 

# Normocytic Anemia: Remained at baseline Hbg ___.

CHRONIC ISSUES: 
# DM2: Last HbA1C 5.1% ___. On Humalog insulin sliding 
scale in house but did not require coverage.  
# HLD: Continued atorvastatin 80mg QHS. 
# CKD Stage II: Reported baseline ~1.3, inpatient Cr ranged 
between 0.9-1.1.

TRANSITIONAL ISSUES:
===================
- Given two recent strokes and repeated hospitalizations, code 
status was clarified this admission. Patient is full code but 
she would not want artificial life support long term. 
- Discharge antibiotic regimen: Nitrofurantoin ___ for 7 
days, last full day ___ for uncomplicated cystitis with last 
dose at 6pm.
- Please check manual blood pressures with appropriately sized 
cuff.
- Please ensure patient follows up with nephrology and neurology 
as scheduled.
- Patient needs 1:1 assist with meals.
- Please encourage patient participation with group activities 
at rehab. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. CloNIDine 0.1 mg PO Q8H 
4. Clopidogrel 75 mg PO DAILY 
5. HydrALAZINE 37.5 mg PO Q6H 
6. Labetalol 200 mg PO Q6H 
7. Lisinopril 20 mg PO DAILY 
8. Multivitamins 1 TAB PO DAILY 
9. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
10. Senna 8.6 mg PO QHS 
11. Docusate Sodium 100 mg PO BID 
12. Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
13. calamine-zinc oxide ___ % topical DAILY:PRN 
14. Cyanocobalamin 1000 mcg IM/SC ONCE PER MONTH ON THE ___. 
15. Fleet Enema ___AILY:PRN constipation 
16. megestrol 400 mg/10 mL (10 mL) oral DAILY 
17. Nystop (nystatin) 100,000 unit/gram topical BID 
18. Ondansetron 4 mg PO Q8H:PRN nausea 
19. Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY 
20. LevETIRAcetam 750 mg PO BID 

 
Discharge Medications:
1.  amLODIPine 10 mg PO HS  
2.  Furosemide 40 mg PO DAILY  
3.  Nitrofurantoin (Macrodantin) 50 mg PO Q6H Duration: 7 Days 
Last dose 6pm ___.  CloNIDine 0.1 mg PO BID  
5.  CloNIDine 0.2 mg PO QHS  
6.  Labetalol 800 mg PO Q8H  
7.  Lisinopril 20 mg PO BID  
8.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
9.  Allopurinol ___ mg PO DAILY  
10.  Atorvastatin 80 mg PO QPM  
11.  calamine-zinc oxide ___ % topical DAILY:PRN  
12.  Clopidogrel 75 mg PO DAILY  
13.  Cyanocobalamin 1000 mcg IM/SC ONCE PER MONTH ON THE ___.  
14.  Docusate Sodium 100 mg PO BID  
15.  Fleet Enema ___AILY:PRN constipation  
16.  LevETIRAcetam 750 mg PO BID  
17.  megestrol 400 mg/10 mL (10 mL) oral DAILY  
18.  Multivitamins 1 TAB PO DAILY  
19.  Nystop (nystatin) 100,000 unit/gram topical BID  
20.  Ondansetron 4 mg PO Q8H:PRN nausea  
21.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
22.  Senna 8.6 mg PO QHS  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
Resistant Hypertention
Uncomplicated Cystitis Secondary to ESBL E. Coli

Secondary Diagnosis:
History of Multiple CVAs (Right MCA; Left Pontine)
Normocytic Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

Why was I admitted to the hospital?
==================================
- You had high blood pressure at your nursing home.

What was done for me?
====================
- Your blood pressure was monitored carefully.
- Your blood pressure medications were changed to better control 
your blood pressures.
- You were given an antibiotic for a urinary infection.

What should I do now?
====================
- Please take all of your medicines as prescribed.
- Please follow up with your stroke doctor as scheduled.
- Please follow up with the kidney doctor as scheduled. 

We wish you the best of health moving forward,

Your ___ Care Team
 
Followup Instructions:
___